US07691882B2
4-Butoxymethyl-benzonitrile
To a mixture of sodium hydride (270 mg, 11 mmol, 66% in oil) and tetrahydrofuran (20 mL) was added n-butanol (1.1 mL, 12 mmol) at 0° C., which was stirred for 45 minutes at room temperature. The reaction mixture was cooled to 0° C., and a mixture of 4-cyanobenzyl bromide (1.5 g, 7.4 mmol) and tetrahydrofuran (10 mL) was added dropwise at that temperature. The reaction mixture was stirred for 3 hours at room temperature, and N,N-dimethylformamide (10 mL) was added to the reaction mixture and stirred for further 4.5 hours at the same temperature. The reaction mixture was partitioned into water and diethyl ether. The organic layer was washed with saturated aqueous sodium chloride, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:6) to obtain the title compound (1.2 g, 84%).

reactant | sodium hydride | 11 mmol, 270 mg | [H-].[Na+]
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | n-butanol | 12 mmol, 1.1 mL | C(CCC)O | C4H10O
reactant | 4-cyanobenzyl bromide | 7.4 mmol, 1.5 g | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-Butoxymethyl-benzonitrile | 1.2 g, 84% | C(CCC)OCC1=CC=C(C#N)C=C1 | C12H15NO
